US07279469B2
A mixture of 1-(1-bromo-ethyl)-4-nitro-benzene (1.24 g, 5.43 mmol), potassium carbonate (2.25 g, 16.3 mmol) and morpholine (1.2 mL, 13.6 mmol) in DMF (10 mL) was stirred at room temperature for 16 h, then evaporated. The residue was suspended in ethyl acetate, washed with water and brine, dried (sodium sulfate) and evaporated to provide 4-[1-(4-nitro-phenyl)-ethyl]-morpholine (1.225 g, 95% yield) as a yellow oil. 1H-NMR (DMSO-d6, 500 MHz) 8.19 (d, 2H), 7.16 (d, 2H), 3.56 (m, 5H), 2.41 (m, 2H), 2.26 (m, 2H), 1.29 (d, 3H) ppm; MS (FIA) 237.2 (M+H); HPLC (Method A) 2.248 min.

reactant | 1-(1-bromo-ethyl)-4-nitro-benzene | 5.43 mmol, 1.24 g | BrC(C)C1=CC=C(C=C1)[N+](=O)[O-] | C8H8BrNO2
reactant | potassium carbonate | 16.3 mmol, 2.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | morpholine | 13.6 mmol, 1.2 mL | N1CCOCC1 | C4H9NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-[1-(4-nitro-phenyl)-ethyl]-morpholine | 1.225 g, 95% yield | [N+](=O)([O-])C1=CC=C(C=C1)C(C)N1CCOCC1 | C12H16N2O3
